US05648372
Synthesis of 1-(2,4-difluorophenyl)-1-(6-thiocarbamoylbenzothiazol-2-yl)-2-(1H-1,2,4-triazol-1-yl)-ethanol
1-(2,4-Difluorophenyl)-1-(6-cyanobenzothiazol-2-yl)-2-(1H-1,2,4-triazol-1-yl)ethanol (418 mg) and triethylamine (500 ml) were dissolved in dimethylformamide (4 ml). While chilling with ice water, hydrogen sulfide gas was introduced into the resultant solution for 5 minutes. After left over for 6 hours at room temperature, water and ethyl acetate were added to the solution to separate liquid layers. An organic layer was washed twice with water and then with saline and then dried over magnesium sulfate. The solvent was distilled out to obtain the intended compound (437 mg). Its physical properties are shown in Table 2 which will be described subsequently.

reactant | 1-(2,4-Difluorophenyl)-1-(6-cyanobenzothiazol-2-yl)-2-(1H-1,2,4-triazol-1-yl)ethanol | 418 mg | FC1=C(C=CC(=C1)F)C(CN1N=CN=C1)(O)C=1SC2=C(N1)C=CC(=C2)C#N | C18H11F2N5OS
reactant | triethylamine | 500 ml | C(C)N(CC)CC | C6H15N
reactant | hydrogen sulfide | S | H2S
reactant | water | O | H2O
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2,4-difluorophenyl)-1-(6-thiocarbamoylbenzothiazol-2-yl)-2-(1H-1,2,4-triazol-1-yl)-ethanol | 437 mg | FC1=C(C=CC(=C1)F)C(CN1N=CN=C1)(O)C=1SC2=C(N1)C=CC(=C2)C(N)=S | C18H13F2N5OS2
